US07485283B2
9b. Toluene-4-sulfonic acid 2-(2,2-dimethyl-2H-chromen-6-yl)-2-oxo-1-(3,4,5-trimethoxy-phenyl)-ethyl ester
To a stirred solution of 1-(2,2-dimethyl-2H-chromen-6-yl)-2-hydroxy-2-(3,4,5-trimethoxy-phenyl)-ethanone (28 mg, 0.073 mmol) in dichloromethane (1.5 mL) is added p-toluenesulfonyl chloride (15.3 mg, 0.080 mmol) and pyridine (6.47 μL, 0.080 mmol). The reaction mixture continues to stir at room temperature. The crude material is purified using silica gel chromatography.

reactant | 1-(2,2-dimethyl-2H-chromen-6-yl)-2-hydroxy-2-(3,4,5-trimethoxy-phenyl)-ethanone | 0.073 mmol, 28 mg | CC1(OC2=CC=C(C=C2C=C1)C(C(C1=CC(=C(C(=C1)OC)OC)OC)O)=O)C | C22H24O6
reactant | p-toluenesulfonyl chloride | 0.080 mmol, 15.3 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 0.080 mmol, 6.47 μL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | Toluene-4-sulfonic acid 2-(2,2-dimethyl-2H-chromen-6-yl)-2-oxo-1-(3,4,5-trimethoxy-phenyl)-ethyl ester | CC1(OC2=CC=C(C=C2C=C1)C(C(C1=CC(=C(C(=C1)OC)OC)OC)OS(=O)(=O)C1=CC=C(C=C1)C)=O)C | C29H30O8S
